### PR TITLE
Explicit local double coset decomposition in preparation for Hecke operators

### PR DESCRIPTION
**Pull request by bwangpj**
This is [Lemma 12.19](https://imperialcollegelondon.github.io/FLT/blueprint/HeckeOperator_project.html#nolean-U1-coset-decomposition) of the blueprint, which is the essential component of #584. It is in a separate file due to its length, but also because it is a purely local computation in preparation for the commutativity of Hecke operators, and there didn't seem to be anywhere else suitable to place it.

### CODE REVIEW

**Comment by bwangpj** [comment]
(The proof is written for level U_1, but can be relatively trivially modified to work for other level U, once the relevant definitions for such U are in place.)

**Comment by bwangpj** [comment]
awaiting-review

File: FLT/AutomorphicForm/QuaternionAlgebra/HeckeOperators/Local.lean [hunk 1]
```diff
@@ -0,0 +1,390 @@
...
+      rw [inv_mul_cancel₀]
+      exact_mod_cast hα⟩, 1])
+
+set_option synthInstance.maxHeartbeats 0 in
+-- double coset space
+variable {F v} in
+/-- The double coset space `U1 g U1` as a set of left cosets. -/
+noncomputable def U1gU1 :
+  Set ((GL (Fin 2) (adicCompletion F v)) ⧸ ↑(U1v v)) :=
+  (QuotientGroup.mk '' ((U1v v) * g α hα • ↑(U1v v) ))
```
Comment (kbuzzard) [inline FLT/AutomorphicForm/QuaternionAlgebra/HeckeOperators/Local.lean]: Surely by putting the U_1(v) on the right and then quotienting out by U_1(v) you're just adding an extra U_1(v) element everywhere which you don't need? Wouldn't the image of U_1(v).g_alpha be a more ergonomic definition here? It also stops the timeout.

I propose
```lean
abbrev U1gU1 : Set (GL (Fin 2) (adicCompletion F v) ⧸ U1v v) :=
  QuotientGroup.mk '' (U1v v * {g α hα})
```

This breaks proofs but it probably makes them easier?

File: FLT/AutomorphicForm/QuaternionAlgebra/HeckeOperators/Local.lean [hunk 2]
```diff
@@ -0,0 +1,390 @@
...
+          rw[Units.coe_map]; unfold htInt
+          simp only [RingHom.toMonoidHom_eq_coe, MonoidHom.coe_coe, RingHom.mapMatrix_apply,
+            ValuationSubring.coe_subtype]
+          ext i j
+          fin_cases i; all_goals fin_cases j
+          all_goals simp; rfl
+        rw[r]; simp
+      use g α hα
+      simp only [and_true]
+      use (1 : GL (Fin 2) (adicCompletion F v))
```
Comment (kbuzzard) [inline FLT/AutomorphicForm/QuaternionAlgebra/HeckeOperators/Local.lean]: After my suggested change you don't need to use 1, and simp closes the goal.

File: FLT/AutomorphicForm/QuaternionAlgebra/HeckeOperators/Local.lean [hunk 3]
```diff
@@ -0,0 +1,390 @@
...
+    constructor
+    · simp
+    simp only [Fin.isValue, AddMonoidHom.coe_mulLeft]
+    apply (Subtype.coe_inj).mp; push_cast
+    rw[y, ← mul_assoc, mul_inv_cancel₀, one_mul]
+    exact (Subtype.coe_ne_coe.mpr hα)
+
+  -- Show that each coset in `U1gU1` is of the form `gtU1` for some t.
+  -- This is the more involved part.
+  intro co h
```
Comment (kbuzzard) [inline FLT/AutomorphicForm/QuaternionAlgebra/HeckeOperators/Local.lean]: With my suggestion this line should now be something like
```
rintro _ ⟨_, ⟨M, hM, _, rfl, rfl⟩, rfl⟩ 
```
and now everything is broken but I'm hoping that once fixed it will be much simpler.

File: FLT/AutomorphicForm/QuaternionAlgebra/HeckeOperators/Local.lean [hunk 4]
```diff
@@ -0,0 +1,386 @@
+/-
+Copyright (c) 2025 Kevin Buzzard. All rights reserved.
+Released under Apache 2.0 license as described in the file LICENSE.
+Authors: Kevin Buzzard, Andrew Yang, Matthew Jasper
```
Comment (kbuzzard) [inline FLT/AutomorphicForm/QuaternionAlgebra/HeckeOperators/Local.lean]: There are surprisingly few mentions of you here :-)

File: FLT/AutomorphicForm/QuaternionAlgebra/HeckeOperators/Local.lean [hunk 5]
```diff
@@ -0,0 +1,386 @@
...
+
+variable (v : HeightOneSpectrum (𝓞 F))
+
+variable (α : v.adicCompletionIntegers F)
+
+variable (hα : α ≠ 0)
+
+variable {F α hα} in
+/-- The subgroup `U1 = GL2.localTameLevel`. -/
+noncomputable abbrev U1v : Subgroup (GL (Fin 2) (adicCompletion F v)) := (GL2.localTameLevel v)
```
Comment (kbuzzard) [inline FLT/AutomorphicForm/QuaternionAlgebra/HeckeOperators/Local.lean]: I think we need to be consistent about whether we're calling it `U1` or `U1v`. Another possibility is calling it `U₁(v)` in comments because at least this looks like what a mathematician might call it. Note that the `v` in the definition of `U1v` is discouraged because we don't really like variable names in definitions. It needs v as an input so now it's `U1v v`. I guess another possibility is just `noncomputable abbrev U1 : Subgroup...` and then you can call it `U1 v` in docstrings.

File: FLT/AutomorphicForm/QuaternionAlgebra/HeckeOperators/Local.lean [hunk 6]
```diff
@@ -0,0 +1,386 @@
...
+      by simp only [Matrix.det_fin_two_of,
+        mul_one, mul_zero, sub_zero]; rw [mul_inv_cancel₀]; exact_mod_cast hα }
+  Matrix.unitOfDetInvertible !![(α : v.adicCompletion F), t; 0, 1]
+
+variable {F v} in
+/-- For each `t ∈ O_v / αO_v`, the left coset `gt U1`
+for a lift of t to `O_v`. -/
+noncomputable abbrev gtU1
+  (t : ↑(adicCompletionIntegers F v) ⧸ (AddSubgroup.map (AddMonoidHom.mulLeft α)
+    (⊤ : AddSubgroup ↑(adicCompletionIntegers F v)))) :
```
Comment (kbuzzard) [inline FLT/AutomorphicForm/QuaternionAlgebra/HeckeOperators/Local.lean]: Hmm, this is not idiomatic. I think this needs to be changed to 
```lean
noncomputable abbrev gtU1
  (t : ↑(adicCompletionIntegers F v) ⧸ Ideal.span {α}) :
```
rather than just making up a new noncanonical spelling of this ideal. This will break code but ultimately should make things simpler.

File: FLT/AutomorphicForm/QuaternionAlgebra/HeckeOperators/Local.lean [hunk 7]
```diff
@@ -0,0 +1,386 @@
...
+as t ranges over `O_v / αO_v`. -/
+lemma U1gU1_cosetDecomposition : Set.BijOn (gtU1 α hα) ⊤ (U1gU1 α hα) := by
+  have r (A : Matrix (Fin 2) (Fin 2) (adicCompletion F v)) [Invertible A.det] :
+    (↑(A.unitOfDetInvertible) : Matrix (Fin 2) (Fin 2) (adicCompletion F v)) = A := rfl
+  have gr : (g α hα : Matrix (Fin 2) (Fin 2) (adicCompletion F v))
+    = !![↑α, 0; 0, 1] := by
+      rw[g]; ext i j
+      rw[Matrix.GeneralLinearGroup.diagonal]
+      fin_cases i; all_goals fin_cases j
+      all_goals simp
```
Comment (kbuzzard) [inline FLT/AutomorphicForm/QuaternionAlgebra/HeckeOperators/Local.lean]: This proof is much much too long (and that's why you're getting timeouts). We need to start factoring stuff out. For example this lemma should be called `g_def` not `gr` and should be proved just after `g`, not in the middle of another proof.

File: FLT/AutomorphicForm/QuaternionAlgebra/HeckeOperators/Local.lean [hunk 8]
```diff
@@ -0,0 +1,386 @@
...
+
+  let ht (t : v.adicCompletion F) : (GL (Fin 2) (adicCompletion F v)) :=
+    let htInv : Invertible !![1, t; 0, 1].det :=
+    { invOf := 1,
+      invOf_mul_self :=
+        by simp only [Matrix.det_fin_two_of, mul_one, mul_zero, sub_zero],
+      mul_invOf_self :=
+        by simp only [Matrix.det_fin_two_of, mul_one, mul_zero, sub_zero] }
+    Matrix.unitOfDetInvertible !![1, t; 0, 1]
```
Comment (kbuzzard) [inline FLT/AutomorphicForm/QuaternionAlgebra/HeckeOperators/Local.lean]: `h` is not a great letter to start a definition with, things starting with h are usually proofs of hypotheses. This looks like a definition which should be outside the proof and should perhaps be called `unipotent`.

File: FLT/AutomorphicForm/QuaternionAlgebra/HeckeOperators/Local.lean [hunk 9]
```diff
@@ -0,0 +1,386 @@
...
+  constructor
+  · -- Show that `gtU1` is contained in `U1gU1` for all t.
+    intro t h
+    -- We have `gt = ht * g`.
+    have m : (gt α hα (Quotient.out t)) =  ht ↑(Quotient.out t) * g α hα := by
+        ext i j; push_cast
+        rw[gt]; unfold ht; rw[gr, r, r, Matrix.mul_apply]
+        simp only [Fin.sum_univ_two, Fin.isValue]
+        fin_cases i; all_goals fin_cases j
+        all_goals simp
```
Comment (kbuzzard) [inline FLT/AutomorphicForm/QuaternionAlgebra/HeckeOperators/Local.lean]: This lemma should be just after the definition of unipotent, should be called `unipotent_mul_diag` (`g` shouldn't be called `g` either, you need to give things more expressive names or proofs become unreadable) and should be proved just after the definition of `unipotent`. Are you beginning to see the philosophy? Lots of small proofs, not one big one. One big proof is hard for me to read and to maintain, and contributes to timeouts as the library gets larger.

**Review by kbuzzard — COMMENTED** [review]
So thanks a lot for your contribution! I can't merge it as it is because it will cause me problems down the road, but I'm happy to work with you into getting it into a mergeable state if you're interested. It's not just about proving the theorem, it's about making a code base which will still be comprehensible and usable in 4 years' time when the funding is winding up, and will not need a lot of maintenance as mathlib changes and things evolve. I've started with some suggestions as to how to pull stuff out of your mega-proof.

File: FLT/AutomorphicForm/QuaternionAlgebra/HeckeOperators/Local.lean (hunk 1 above)
Comment (bwangpj) [reply FLT/AutomorphicForm/QuaternionAlgebra/HeckeOperators/Local.lean]: Ah yeah that makes sense - I copied this directly from `HeckeOperators.Abstract` and didn't really think about whether it could be simplified

**Comment by bwangpj** [comment]
Thank you very much! Yeah my previous experience with collaborating on Lean as an undergrad was mainly just to get working proofs, and going beyond that to build a user-friendly library is one of the things I want to learn by working on projects like FLT. I'll work on refactoring the code into smaller lemmas and more expressive names. Is there any particular naming convention for FLT that I should be following?

**Comment by bwangpj** [comment]
Thank you very much! Yeah my previous experience with my collaborators on Lean as an undergrad was mainly just about getting working proofs, and going beyond that to build a user-friendly library is one of the things I want to learn by working on projects like FLT. I'll work on refactoring the code into smaller lemmas and more expressive names.

File: FLT/AutomorphicForm/QuaternionAlgebra/HeckeOperators/Local.lean (hunk 5 above)
Comment (bwangpj) [reply FLT/AutomorphicForm/QuaternionAlgebra/HeckeOperators/Local.lean]: I've gone with just `noncomputable abbrev U1 : Subgroup...` and calling it `U1 v` in docstrings - that seems to me like the most natural

**Comment by bwangpj** [comment]
awaiting-review

File: FLT/AutomorphicForm/QuaternionAlgebra/HeckeOperators/Local.lean [hunk 10]
```diff
@@ -0,0 +1,343 @@
...
+    mul_zero, sub_zero, Ring.inverse_eq_inv', Matrix.adjugate_fin_two_of, neg_zero, Matrix.smul_of,
+    Matrix.smul_cons, smul_eq_mul, Matrix.smul_empty, Matrix.cons_mul, Nat.succ_eq_add_one,
+    Nat.reduceAdd, Matrix.vecMul_cons, Matrix.head_cons, Matrix.tail_cons, zero_smul,
+    Matrix.empty_vecMul, add_zero, zero_add, Matrix.empty_mul, Equiv.symm_apply_apply,
+    Matrix.add_cons, Matrix.empty_add_empty, EmbeddingLike.apply_eq_iff_eq]
+  rw[inv_mul_cancel₀ ((Subtype.coe_ne_coe).mpr hα), one_mul, one_mul]
+  ring_nf; rw[mul_inv_cancel₀ ((Subtype.coe_ne_coe).mpr hα), one_mul]
+
+/-- The unipotent matrix element `!![1, t; 0, 1]`. -/
+noncomputable def unipotent (t : v.adicCompletion F) : (GL (Fin 2) (adicCompletion F v)) :=
```
Comment (kbuzzard) [inline FLT/AutomorphicForm/QuaternionAlgebra/HeckeOperators/Local.lean]: I'm fine for this to be in the GL2 namespace but it should be made for a general ring (or semiring if lean allows it). I was going to say "and it should be a group hom" but actually it changes the group operation :-/ so it would probably be inconvenient to have this.

File: FLT/AutomorphicForm/QuaternionAlgebra/HeckeOperators/Local.lean [hunk 11]
```diff
@@ -0,0 +1,343 @@
...
+    invOf_mul_self :=
+      by simp only [Matrix.det_fin_two_of, mul_one, mul_zero, sub_zero],
+    mul_invOf_self :=
+      by simp only [Matrix.det_fin_two_of, mul_one, mul_zero, sub_zero] }
+  Matrix.unitOfDetInvertible !![1, t; 0, 1]
+
+lemma unipotent_def (t : v.adicCompletion F) :
+    (unipotent t : Matrix (Fin 2) (Fin 2) (adicCompletion F v))
+    = !![1, t; 0, 1] := by
+  rw[unipotent]; rfl
```
Comment (kbuzzard) [inline FLT/AutomorphicForm/QuaternionAlgebra/HeckeOperators/Local.lean]:
```suggestion
  rw [unipotent]; rfl
```
I'm surprised that we're not linting for bad spaces. Does `simp [unipotent]` solve it?

File: FLT/AutomorphicForm/QuaternionAlgebra/HeckeOperators/Local.lean [hunk 12]
```diff
@@ -0,0 +1,343 @@
...
+lemma unipotent_mul_diag_inv_mul_unipotent_mul_diag (t₁ t₂ : v.adicCompletionIntegers F) :
+    (unipotent_mul_diag α hα t₁)⁻¹ * unipotent_mul_diag α hα t₂
+    = unipotent ((α : v.adicCompletion F)⁻¹ * ((t₂ + -t₁) : adicCompletion F v )) := by
+  ext i j
+  push_cast [unipotent_mul_diag, mul_inv_rev, unipotent_inv]
+  rw [← mul_assoc]; nth_rw 2 [mul_assoc]
+  rw_mod_cast [unipotent_mul]; push_cast [unipotent_def]
+  rw_mod_cast [conjBy_diag]
+  fin_cases i; all_goals fin_cases j
+  all_goals simp
```
Comment (kbuzzard) [inline FLT/AutomorphicForm/QuaternionAlgebra/HeckeOperators/Local.lean]:
```suggestion
simp
```
I feel like manipulation of 2x2 matrices like this should be simpler in general, but I don't have enough energy to make it easier myself.

File: FLT/AutomorphicForm/QuaternionAlgebra/HeckeOperators/Local.lean [hunk 13]
```diff
@@ -0,0 +1,343 @@
...
+
+end GL2
+
+open GL2
+
+/- We could use `TameLevel` instead of `U1` in the naming,
+but not sure if we might want to generalise to more general `U_Δ` at some point. -/
```
Comment (kbuzzard) [inline FLT/AutomorphicForm/QuaternionAlgebra/HeckeOperators/Local.lean:114]: See FLT#691 for some U_Delta incoming.

File: FLT/AutomorphicForm/QuaternionAlgebra/HeckeOperators/Local.lean [hunk 14]
```diff
@@ -0,0 +1,343 @@
...
+lemma conjBy_diag_mem_U1_iff_apply_zero_one_mem_ideal :
+    (diag α hα)⁻¹ * x * diag α hα ∈ U1 v
+    ↔ ⟨(x 0 1), apply_mem_integer hx _ _⟩ ∈ (Ideal.span {α}) := by
+  let a : (adicCompletionIntegers F v) := ⟨ _ , apply_mem_integer hx 0 0 ⟩
+  let b : (adicCompletionIntegers F v) := ⟨ _ , apply_mem_integer hx 0 1 ⟩
+  let c : (adicCompletionIntegers F v) := ⟨ _ , apply_mem_integer hx 1 0 ⟩
+  let d : (adicCompletionIntegers F v) := ⟨ _ , apply_mem_integer hx 1 1 ⟩
+  have hx₁ : x = !![(a : adicCompletion F v), b; c, d] :=
+    (Matrix.etaExpand_eq (x : Matrix (Fin 2) (Fin 2) (adicCompletion F v))).symm
+
```
Comment (kbuzzard) [inline FLT/AutomorphicForm/QuaternionAlgebra/HeckeOperators/Local.lean]:
```suggestion
```

File: FLT/AutomorphicForm/QuaternionAlgebra/HeckeOperators/Local.lean [hunk 15]
```diff
@@ -0,0 +1,343 @@
...
+    push_cast [hx₁] at h₁; rw_mod_cast [conjBy_diag] at h₁
+    simp only [Fin.isValue, Matrix.of_apply, Matrix.cons_val', Matrix.cons_val_one,
+      Matrix.cons_val_fin_one, Matrix.cons_val_zero] at h₁
+    apply Ideal.mem_span_singleton'.mpr
+    use ⟨ _ , h₁ ⟩
+    apply (Subtype.coe_inj).mp; push_cast
+    ring_nf; rw[mul_inv_cancel₀ ((Subtype.coe_ne_coe).mpr hα), one_mul]
+
+  /- Conversely, we show that `(diag α hα)⁻¹ * x * diag α hα ∈ U1 v`. -/
+  intro h; obtain ⟨ q, hq ⟩ := Ideal.mem_span_singleton'.mp h
```
Comment (kbuzzard) [inline FLT/AutomorphicForm/QuaternionAlgebra/HeckeOperators/Local.lean]:
```suggestion
  intro h; obtain ⟨q, hq⟩ := Ideal.mem_span_singleton'.mp h
```

File: FLT/AutomorphicForm/QuaternionAlgebra/HeckeOperators/Local.lean [hunk 16]
```diff
@@ -0,0 +1,343 @@
...
+      (QuotientGroup.eq.mp h)
+  /- Then inspecting the top-right entry of `(unipotent_mul_diag t₁)⁻¹ * (unipotent_mul_diag t₂)`
+  gives us `t₁ = t₂`. -/
+  have unipotent_apply_zero_one_mem_integer := apply_mem_integer unipotent_mem_U1 0 1
+  simp only [unipotent, Matrix.unitOfDetInvertible, Fin.isValue, val_unitOfInvertible,
+    Matrix.of_apply, Matrix.cons_val', Matrix.cons_val_one, Matrix.cons_val_fin_one,
+    Matrix.cons_val_zero] at unipotent_apply_zero_one_mem_integer
+  rw[← (QuotientAddGroup.out_eq' t₁), ← (QuotientAddGroup.out_eq' t₂)]
+  apply QuotientAddGroup.eq.mpr; apply Ideal.mem_span_singleton'.mpr
+  use ⟨ _ , unipotent_apply_zero_one_mem_integer ⟩
```
Comment (kbuzzard) [inline FLT/AutomorphicForm/QuaternionAlgebra/HeckeOperators/Local.lean]: here and in other places, there should be no spaces after `⟨` or before `⟩`

File: FLT/AutomorphicForm/QuaternionAlgebra/HeckeOperators/Local.lean [hunk 17]
```diff
@@ -0,0 +1,343 @@
+/-
+Copyright (c) 2025 Kevin Buzzard. All rights reserved.
```
Comment (kbuzzard) [inline FLT/AutomorphicForm/QuaternionAlgebra/HeckeOperators/Local.lean]: This is all you, right? This should be copyright you.

**Comment by kbuzzard** [comment]
The results here look great but I don't have time to review properly so my review is mostly superficial. I'm travelling for the next 10 days but FLT is a priority when I get back, sorry to keep you waiting even longer! Note also FLT#691 which is the beginning of U_Delta.

File: FLT/AutomorphicForm/QuaternionAlgebra/HeckeOperators/Local.lean (hunk 11 above)
Comment (bwangpj) [reply FLT/AutomorphicForm/QuaternionAlgebra/HeckeOperators/Local.lean]: `simp [unipotent, Matrix.unitOfDetInvertible]` closes the goal!

File: FLT/AutomorphicForm/QuaternionAlgebra/HeckeOperators/Local.lean (hunk 12 above)
Comment (bwangpj) [reply FLT/AutomorphicForm/QuaternionAlgebra/HeckeOperators/Local.lean]: agreed...

File: FLT/QuaternionAlgebra/NumberField.lean [hunk 18]
```diff
@@ -113,6 +113,25 @@ lemma GL2.v_le_one_of_mem_localFullLevel (v : HeightOneSpectrum (𝓞 F)) {x}
...
   simp only [← hx', ← HeightOneSpectrum.mem_adicCompletionIntegers, SetLike.coe_mem]
 
+lemma GL2.mem_localFullLevel_iff_v_le_one_and_v_det_eq_one {v : HeightOneSpectrum (𝓞 F)}
+    {x : GL (Fin 2) (v.adicCompletion F)} :
+    x ∈ localFullLevel v
+    ↔ (∀ (i j), Valued.v (x i j) ≤ 1) ∧ Valued.v x.val.det = 1 :=
+  ⟨ fun h => ⟨GL2.v_le_one_of_mem_localFullLevel _ h,
+    GL2.v_det_val_mem_localFullLevel_eq_one h⟩
+    , by
+    intro ⟨ h₁, h₂ ⟩
```
Comment (kbuzzard) [inline FLT/QuaternionAlgebra/NumberField.lean]:
```suggestion
    x ∈ localFullLevel v ↔ (∀ (i j), Valued.v (x i j) ≤ 1) ∧ Valued.v x.val.det = 1 :=
  ⟨ fun h => ⟨GL2.v_le_one_of_mem_localFullLevel _ h, GL2.v_det_val_mem_localFullLevel_eq_one h⟩, by
    intro ⟨h₁, h₂⟩
```
I think that's the "mathlib spacing convention" or whatever.

File: blueprint/src/chapter/HeckeOperatorProject.tex [hunk 19]
```diff
@@ -361,17 +361,24 @@ \section{Some local theory}
 and we don't have a definition of nonarchimedean local field yet.
 
 \begin{lemma}
-  \label{nolean-compactopen}
+  \lean{NumberField.isOpenAdicCompletionIntegers, NumberField.instCompactSpaceAdicCompletionIntegers}
+  \label{NumberField.isOpenAdicCompletionIntegers, NumberField.instCompactSpaceAdicCompletionIntegers}
+  \leanok
```
Comment (kbuzzard) [inline blueprint/src/chapter/HeckeOperatorProject.tex:366]: Can we have more than one thing in \lean and \label??

File: FLT/AutomorphicForm/QuaternionAlgebra/HeckeOperators/Local.lean [hunk 20]
```diff
@@ -0,0 +1,341 @@
...
+
+namespace Local
+
+variable {v : HeightOneSpectrum (𝓞 F)}
+
+variable (α : v.adicCompletionIntegers F)
+
+variable (hα : α ≠ 0)
+
+-- Not sure if this could be somewhere else.
```
Comment (kbuzzard) [inline FLT/AutomorphicForm/QuaternionAlgebra/HeckeOperators/Local.lean:31]: Probably it does go somewhere else but it's fine here for now.

File: FLT/AutomorphicForm/QuaternionAlgebra/HeckeOperators/Local.lean [hunk 21]
```diff
@@ -0,0 +1,341 @@
...
+variable (v) {α hα} in
+lemma valuation_lt_one_iff_mem_maximalIdeal {t : adicCompletionIntegers F v} :
+    Valued.v (t : adicCompletion F v) < 1
+    ↔ t ∈ IsLocalRing.maximalIdeal (adicCompletionIntegers F v) :=
+  Iff.trans
+  (Valuation.isEquiv_iff_val_lt_one.mp
+    (Valuation.isEquiv_valuation_valuationSubring Valued.v))
+  (ValuationSubring.valuation_lt_one_iff (adicCompletionIntegers F v) _).symm
```
Comment (kbuzzard) [inline FLT/AutomorphicForm/QuaternionAlgebra/HeckeOperators/Local.lean]: Just to let you know: you can do this
```suggestion
  (Valuation.isEquiv_iff_val_lt_one.mp
    (Valuation.isEquiv_valuation_valuationSubring Valued.v)).trans
  (ValuationSubring.valuation_lt_one_iff (adicCompletionIntegers F v) _).symm
```
"Golfing" is encouraged in mathlib (the logic seems to be "the shorter the code, the faster it is to compile and the fewer bytes it takes") but I'm less bothered about it here (and I'm not entirely sure I buy the logic).

File: FLT/AutomorphicForm/QuaternionAlgebra/HeckeOperators/Local.lean [hunk 22]
```diff
@@ -0,0 +1,341 @@
...
+    (diag α hα : Matrix (Fin 2) (Fin 2) (adicCompletion F v))
+    = !![↑α, 0; 0, 1] := by
+  rw[diag, Matrix.GeneralLinearGroup.diagonal]
+  ext i j; fin_cases i; all_goals fin_cases j
+  all_goals simp
+
+lemma conjBy_diag {a b c d : adicCompletion F v} :
+    (diag α hα)⁻¹ * !![a, b; c, d] * diag α hα
+    = !![a, (α : v.adicCompletion F)⁻¹ * b; c * α, d] := by
+  simp only [Matrix.coe_units_inv, diag_def, Matrix.inv_def, Matrix.det_fin_two_of, mul_one,
```
Comment (kbuzzard) [inline FLT/AutomorphicForm/QuaternionAlgebra/HeckeOperators/Local.lean:68]: This is fine for FLT, but for mathlib my instinct would be to tell you to make API for `Matrix.GeneralLinearGroup.diagonal` e.g. `diagonal_mul_apply` and `mul_diagonal_apply` and get this proof to be something like
```
  ext i j
  fin_cases i; fin_cases j; simp; ring
```

File: FLT/AutomorphicForm/QuaternionAlgebra/HeckeOperators/Local.lean (hunk 10 above)
Comment (kbuzzard) [reply FLT/AutomorphicForm/QuaternionAlgebra/HeckeOperators/Local.lean]: Actually this is currently in the `TotallyDefiniteQuaternionAlgebra.WeightTwoAutomorphicForm.HeckeOperator.Local.GL2` namespace which does seem a bit crazy. Your work is making me wonder whether we should have some `Matrix.GL2` namespace and put it there.

File: FLT/AutomorphicForm/QuaternionAlgebra/HeckeOperators/Local.lean [hunk 23]
```diff
@@ -0,0 +1,341 @@
...
+noncomputable def unipotent (t : v.adicCompletion F) : (GL (Fin 2) (adicCompletion F v)) :=
+  letI detInv : Invertible !![1, t; 0, 1].det :=
+  { invOf := 1,
+    invOf_mul_self :=
+      by simp only [Matrix.det_fin_two_of, mul_one, mul_zero, sub_zero],
+    mul_invOf_self :=
+      by simp only [Matrix.det_fin_two_of, mul_one, mul_zero, sub_zero] }
+  Matrix.unitOfDetInvertible !![1, t; 0, 1]
+
+lemma unipotent_def (t : v.adicCompletion F) :
```
Comment (kbuzzard) [inline FLT/AutomorphicForm/QuaternionAlgebra/HeckeOperators/Local.lean]: It does seem daft proving all this stuff only for `v.adicCompletion F` -- how about making some new file called `FLT.Mathlib.Data.Matrix.GL2` and putting all the basic GL2 stuff there?

File: FLT/AutomorphicForm/QuaternionAlgebra/HeckeOperators/Local.lean [hunk 24]
```diff
@@ -0,0 +1,341 @@
+/-
+Copyright (c) 2025 Bryan Wang. All rights reserved.
+Released under Apache 2.0 license as described in the file LICENSE.
+Authors: Kevin Buzzard, Bryan Wang
```
Comment (kbuzzard) [inline FLT/AutomorphicForm/QuaternionAlgebra/HeckeOperators/Local.lean]: Why am I listed as an author? I'm happy for you to be the sole author -- all of this is your work.

File: FLT/AutomorphicForm/QuaternionAlgebra/HeckeOperators/Local.lean (hunk 12 above)
Comment (kbuzzard) [reply FLT/AutomorphicForm/QuaternionAlgebra/HeckeOperators/Local.lean]: Are you going to make my suggested change and then resolve this comment?

File: FLT/AutomorphicForm/QuaternionAlgebra/HeckeOperators/Local.lean (hunk 13 above)
Comment (kbuzzard) [reply FLT/AutomorphicForm/QuaternionAlgebra/HeckeOperators/Local.lean:114]: Let's stick to U_1 for now and refactor later; I'd like to get this PR merged.

**Review by kbuzzard — APPROVED** [review]
Sorry this has taken so long; August was basically family holiday time and I had very little time for FLT. This looks basically fine to me. Can you just deal with these final comments, resolve everything and then I'll merge? Thanks!

File: FLT/AutomorphicForm/QuaternionAlgebra/HeckeOperators/Local.lean (hunk 23 above)
Comment (bwangpj) [reply FLT/AutomorphicForm/QuaternionAlgebra/HeckeOperators/Local.lean]: Yep - I've moved all the lemmas about `unipotent` to the new file. The remaining lemmas involve either `U1` or `diag` - those with `U1` probably can't be moved, whereas for `diag`, it is actually just an abbrev for `Matrix.GeneralLinearGroup.diagonal`, which was previously defined in some random place in FLT, and which I have also moved to the new file!

File: blueprint/src/chapter/HeckeOperatorProject.tex (hunk 19 above)
Comment (bwangpj) [reply blueprint/src/chapter/HeckeOperatorProject.tex:366]: It seems to work, but anyway I've split openness and compactness into separate lemmas.

**Comment by kbuzzard** [comment]
Thanks a lot!
